US07276617B2
A tridentate ligand, 3,5-di(2-pyridyl)toluene was synthesized as follows. Specifically, 3,5-dibromotoluene (6.9 g; 20 mmol), 2-tri-n-butylstannylpyridine (26.9 g; 73 mmol), bis(triphenylphosphine)palladium dichloride (1.55 g; 2.2 mmol), and lithium chloride (11.7 g; 276 mmol) were added to 130 ml of toluene and the mixture was refluxed for 2 days. After cooling, 50 ml of saturated potassium fluoride solution was added. The precipitated solid was separated by filtration, washed with a small amount of cooled toluene (20 ml×3), and vacuum dried. The obtained solid was placed to a mixed solution of dichloromethane and NaHCO3, and washed well. The organic layer was separated, was dried over MgSO4 powder, and then the solvent was removed by evaporation. Next, the solid was recrystallized from dichloromethane to obtain 2.2 g of grey solid of 3,5-di(2-pyridyl)toluene of interest.

reactant | 3,5-dibromotoluene | 20 mmol, 6.9 g | BrC=1C=C(C=C(C1)Br)C | C7H6Br2
reactant | 2-tri-n-butylstannylpyridine | 73 mmol, 26.9 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | lithium chloride | 276 mmol, 11.7 g | [Cl-].[Li+]
reactant | potassium fluoride | 50 ml | [F-].[K+]
catalyst | bis(triphenylphosphine)palladium dichloride | 2.2 mmol, 1.55 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-di(2-pyridyl)toluene | N1=C(C=CC=C1)C=1C=C(C=C(C1)C1=NC=CC=C1)C | C17H14N2
